US03989707
A mixture of 7 parts of 1-chloro-4,4-bis(4-fluorophenyl)-butane, 6.84 parts of 1,3-dihydro-5-iodo-1-(4-piperidinyl)-2H-benzimidazol-2-one, 6.4 parts of sodium carbonate, 0.2 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 24 hours with water-separator. After cooling, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silicagel, using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and 2-propanol, yielding 1-{1-[4,4-bis(4-fluorophenyl)-butyl]-4-piperidinyl}-1,3-dihydro-5 -iodo-2H-benzimidazol-2-one; mp. 179.3° C.

reactant | 1-chloro-4,4-bis(4-fluorophenyl)-butane | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | 1,3-dihydro-5-iodo-1-(4-piperidinyl)-2H-benzimidazol-2-one | IC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14IN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{1-[4,4-bis(4-fluorophenyl)-butyl]-4-piperidinyl}-1,3-dihydro-5 -iodo-2H-benzimidazol-2-one | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)N1C(NC2=C1C=CC(=C2)I)=O)C2=CC=C(C=C2)F | C28H28F2IN3O
